Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Qvar / Keflex
 
Attending: ___
 
Chief Complaint:
Left-sided weakness, left facial droop, slurred speech
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old woman with history of anxiety who
presents as code stroke for acute onset left sided weakness,
facial droop, and slurred speech, which have rapidly improved
within ___ minutes.

The patient was in her usual state of health earlier this 
evening
and was lying in bed, when acutely around 10:50pm she realized
that she could not move her left arm or leg. Her left hand had
been resting on her chest and she could not move it. She used 
her
right hand to grab the left, and found that it was numb to
sensation in the entire left limb. At this time, she rolled over
in her bed and somehow ambulated to the door of her bedroom, and
called out for family members. Her daughter heard her call for
help and approached; she noticed that her speech was slurred and
the left side of her face was droopy. She immediately called for
an ambulance and helped her mother outside. While ambulating, 
she
seemed to favor her left lower limb.

While waiting outside for the ambulance, the patient noted that
her strength began to return to her arm and leg. She thinks that
over the next ___ minutes, she gradually returned almost to
normal, however still endorses facial droop and slight slurred
speech. At this time, she is able to feel sensation 
symmetrically
although still thinks her left hand is slightly "off" with
difficulty describing this further.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus
or hearing difficulty. Denies difficulties producing or
comprehending speech. No bowel or bladder incontinence or
retention.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness, but
does endorse palpiations for which she has been evaluated
extensively in Cardiology clinic.  Recent nausea and bloating
after taking malarone; denies vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash. Of note,
there is recent travel to ___ and ___.

 
Past Medical History:
Anxiety
Genital herpes
Palpitations
- seen by Cardiology and underwent cardiac monitoring which did
not capture any changes correlating to her palpitations, but did
capture asymptomatic sinus tachycardia, which she declined to
have treated
 
Social History:
___
Family History:
Father with TIA. Mother with MI and facial droop developed in 
her
___. No family history of hypercoagulability in form of blood
clots, miscarriages, etc.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Physical Exam:
Vitals: 97.9 50 132/77 18 99% RA 
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Able to
read without difficulty. Speech was not dysarthric (although pt
self-reported mild dysarthria). Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch bilaterally.
VII: Left nasolabial fold flattening with subtle asymmetry on
left, subsequently with good motor activation bilaterally.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.

DISCHARGE PHYSICAL EXAM:

General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:
-Mental Status: Alert, grossly oriented. Able to relate history
without difficulty. Language is fluent with intact 
comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects. Speech was not
dysarthric (self-reported dysarthria resolved). Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves: PERRL 3 to 2mm, EOMI, left NLFF, uvula/tongue
midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Decreased sensation to light touch in left V2

-Coordination: No dysmetria on FNF or HKS bilaterally.

 
Pertinent Results:
___ 09:19AM   CHOLEST-217*
___ 09:19AM   TRIGLYCER-57 HDL CHOL-90 CHOL/HDL-2.4 
LDL(CALC)-116
___ 11:38PM   %HbA1c-4.8 eAG-91
___ 11:38PM   ___
___ 11:38PM   FREE T4-1.2
___ 11:38PM   FREE T4-1.2
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of anxiety, 
palpitations, and a distant miscarriage who presented as code 
stroke for acute onset left hemiparesis, dysarthria, and left 
facial droop. Her exam markedly improved by the time of 
presentation to the ED and evaluation by neurology (NIHSS 1, not 
a tPA candidate). 

Her work-up was significant for acute ischemic infarcts in 
distribution of ACA territory raising suspicion for 
cardio-embolic source vs artery-to-artery.

Stroke risk factors were assessed and include: 
LDL 116: Started on Atorvastatin 80 mg daily
PFO on ECHO: Lower extremity ultrasounds did not show a blood 
clot. Started on Aspirin 81 mg. Hypercoaguable workup was sent, 
but genetic testing needs to be sent as an outpatient (Factor 5 
leiden, ___ gene mutation). 
A1C 4.8%
TSH 4.9, free T4 1.2 
Telemetry: no evidence of atrial fibrillation. 

During the hospital stay, cardiology was consulted and 
recommended 
continuous monitoring with ___ of Hearts for two weeks 
followed by implantable loop recorder if nothing is revealed on 
___ of Hearts.

Transitional issues:
Please follow-up on hypercoagulable labs (see above for 
pending): 
Labs
___ 05:15 CRYO
___ 05:15 PROT C
___:15 PROT S
___ 05:15 AT III
___ 05:30 DSDNA
___ 05:30 LUPUS
Send Outs
___ 05:30 CARDIOLIPIN ANTIBODIES (IGG, IGM)
___ 05:15 BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, IGM, IGG)

Patient was discharged with PRN enoxaparin 40mg subtherapeutic 
to use prior to flying.

PLAN:

# Right ischemic stroke in distal MCA vs ACA territory
- TTE ___: PFO, mildly enlarged LA.
- hypercoag workup pending
- cont. atorv 80, ASA 81 mg
- allow BP to auto-regulate 
- Follow up with cardiology to evaluate the possibility of PFO 
closure. 

# Palpitations, PFO
-  monitoring on tele with no a-fib.
- Patient received ___ of Hearts on discharge with EP follow-up 
for possible loop recorder implantation as outpatient.
-  Lower extremities Doppler U/S:  no evidence of deep venous 
thrombosis in the right or left lower extremity 
veins. 
- Follow up with cardiology to evaluate the possibility of PFO 
closure.

# Hospital Issues:
- FEN/GI: regular diet 
- DVT ppx: sq heparin
- Precautions: n/a
- Code status: full

 
Medications on Admission:
Escitalopram 10mg daily
Valacyclovir 500mg BID
Recently finished prophylactic course of atovaquone/proguanil
(for travel to ___
Ibuprofen prn
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 (One) tablet(s) by 
mouth every day Disp #*60 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth every evening before 
bedtime Disp #*90 Tablet Refills:*0 
3.  Enoxaparin Sodium 40 mg SC ONCE before flying 
Use one dose prior to flying  
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous Before flying 
Disp #*6 Syringe Refills:*0 
4.  Acyclovir 400 mg PO Q12H  
5.  Escitalopram Oxalate 10 mg PO DAILY mood  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were hospitalized due to acute weakness resulting from an 
ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High Cholesterol 
PFO (diagnosed on ECHO), which increases the risk of blood clots 
travelling to the brain
Concern for irregular heart rate (atrial fibrillation), for 
which Cardiology recommends a holter and outpatient follow up 
for possible Loop recorder. 

We are changing your medications as follows:
START: atorvastatin 80 mg; ASA 81 mg

We also recommend that ___ take 1x dose of subtherapeutic 
enoxaparin as prophylaxis before ___ go on flights. 
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___